Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Keflex
 
Attending: ___.
 
Chief Complaint:
CC: multiple falls with head strike

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ year-old left-handed man with a medical
history notable for glaucoma who presents as a transfer from
___ with dizziness and dysarthria followed by
multiple falls complicated by subdural hematoma.

Mr. ___ was in his usual state of health, had fallen
asleep in his living room watching TV and using his iPad, and
then  he woke up feeling normal, stood up and felt like he could
not adjust his eyes properly, which is a chronic problem for him
given the glaucoma but it was worse now than usual.  He also
describes "unnatural feeling" that he likens to dizziness,
however, he denies any sensation of abnormal movement of himself
or the room around him.  He also described that he felt like he
had difficulty walking and that he was very unstable which is 
not
his baseline. He fell multiple times after the initial fall,
however he says the initial one "was the worst of them all".  He
also describes that his speech sounded "all jumbled" and that
while he could think of all of the words that he wanted to say 
he
felt he had difficulty producing speech.  He had no difficulty
understanding speech.  He does not take anticoagulation or
antiplatelets regularly however he was concerned that he had had
a stroke, so he took aspirin 324.  He wanted to stay home, but
his wife was concerned about him and insisted he present to the
hospital for further work-up.

He presented to ___, where he underwent CT brain, CT
C-spine, and multiple x-rays of bruised extremities (from the
fall).  He was transferred to ___ for further work-up.  There
is no report from the outside radiologist's however on my view 
it
appears the CT head is notable for posterior/right-sided 
subdural
hematoma, as well as multiple asymmetric cerebellar
hypodensities.

Once in the ___ ED, he was found to be afebrile with vital
signs notable for hypertension to the 150s-160s / 70s-80s.  He
underwent lab work which was notable for a leukocytosis of 16.8,
INR 1.3, mild anemia 12.2/36.4.  Neurosurgery was consulted for
further management of subdural hematoma.  Neurology was 
consulted
for question of stroke leading to falls.  The patient feels like
things have improved overall since initial presentation however
he still endorses blurred vision, dysarthria, gait unsteadiness
while walking to bathroom.

On neuro ROS, the pt denies headache, diplopia, dysphagia,
lightheadedness, vertigo, tinnitus or hearing difficulty. Denies
difficulties planning or comprehending speech.  Denies focal
weakness, numbness, parasthesiae. No bowel or bladder
incontinence or retention. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
Problems  (Last Verified ___ by ___:
LUMBAR SPINAL STENOSIS                                          

 
Social History:
___
Family History:
Family Hx:
No neurologic family history                        

 
Physical Exam:
Physical Exam:
Vitals: T98.1, HR84, BP 157/78, RR16, O295% RA
General: Awake, cooperative, NAD.
HEENT: ecchymosis over right posterior occiput, no scleral
icterus noted, positive bilateral scleral injection, MMM, no
lesions noted in oropharynx
Neck: Supple, no nuchal rigidity
Pulmonary: breathing non labored on room air 
Cardiac: warm and well perfused
Abdomen: soft, NT/ND, no masses or organomegaly noted.
Extremities: No cyanosis, clubbing or edema bilaterally, does
have significant bruising on left arm and bilateral knees
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Awake, alert, oriented to self, place, time and
situation. Able to relate history without difficulty. Attentive,
able to name ___ backward without difficulty. Language is fluent
with intact repetition and comprehension. Normal prosody. There
were no paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty. Speech was
profoundly dysarthric. Able to follow both midline and
appendicular commands. Pt was able to register 3 objects and
recall ___ at 5 minutes. The pt had good knowledge of current
events. There was no evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 2 to 1mm and brisk. VFF to confrontation. Fundoscopic
exam performed, revealed crisp disc margins with no papilledema,
exudates, or hemorrhages.
III, IV, VI: Left eye exotropic, right eye does not adduct past
midline (both chronic of many years as per patient) Normal
saccades. upgaze produces vertical ocular flutter for ___ beats
before self extinguishing, no vision changes reported. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline, bilateral cuts on both sides.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
Mild-moderate bilateral intention tremor of both arms as well as
head with activation. No asterixis noted.
  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   ___
L  5    ___   5    ___     5    5   5      5     5
R  5    ___   5    ___     5    5   5      5     5

-Sensory: No deficits to light touch, pinprick, cold sensation,
proprioception throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1

Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: deferred for safety

DISCHARGE EXAM
=================
Physical Exam: Reviewed in metavision
Vitals: Reviewed in metavision
General: Awake, cooperative, NAD.
Neck: Supple, non tender
OP: Significant bruise on RL tongue

Neurologic:

-Mental Status: Awake, alert, oriented to self, place, time and
situation. Able to relate history without difficulty, prominent
stutter.  Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors. 

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 2 to 1mm and brisk. 
III, IV, VI: Left eye exotropic but EOM are full with the
exception of slight limitation of upgaze and inability to bury
sclerae bilaterally 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Not tested
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: No drift. Antigravity in all limbs

-Sensory: No deficits to light touch

-DTRs:
Not tested

___ response was withdrawal bilaterally

-Coordination: No dysmetria onf FNF

-Gait: deferred for safety

 
Pertinent Results:
Admission Labs
=============

___ 02:35PM BLOOD WBC-16.8* RBC-3.65* Hgb-12.2* Hct-36.4* 
MCV-100* MCH-33.4* MCHC-33.5 RDW-18.4* RDWSD-67.6* Plt ___
___ 02:35PM BLOOD Neuts-75.8* Lymphs-12.8* Monos-9.5 
Eos-0.1* Baso-0.4 Im ___ AbsNeut-12.74* AbsLymp-2.15 
AbsMono-1.60* AbsEos-0.01* AbsBaso-0.06
___ 02:35PM BLOOD ___ PTT-27.2 ___
___ 02:35PM BLOOD Plt ___
___ 02:35PM BLOOD Glucose-113* UreaN-26* Creat-1.0 Na-137 
K-3.9 Cl-103 HCO3-22 AnGap-12
___ 06:20AM BLOOD ALT-19 AST-56* CK(CPK)-1434* AlkPhos-76 
TotBili-1.7*
___ 02:35PM BLOOD Calcium-9.2 Phos-2.9 Mg-2.1
___ 06:20AM BLOOD %HbA1c-6.4* eAG-137*
___ 06:20AM BLOOD Triglyc-63 HDL-51 CHOL/HD-2.5 LDLcalc-63
___ 06:20AM BLOOD TSH-1.5

DC Labs
===========

___ 05:50AM BLOOD WBC-14.1* RBC-3.38* Hgb-11.2* Hct-33.6* 
MCV-99* MCH-33.1* MCHC-33.3 RDW-18.3* RDWSD-66.9* Plt ___
___ 05:50AM BLOOD Plt ___
___ 05:50AM BLOOD ___ PTT-27.0 ___
___ 05:50AM BLOOD Glucose-137* UreaN-20 Creat-0.8 Na-141 
K-3.4* Cl-104 HCO3-23 AnGap-14
___ 06:20AM BLOOD ALT-19 AST-56* CK(CPK)-1434* AlkPhos-76 
TotBili-1.7*
___ 05:50AM BLOOD Calcium-8.7 Phos-2.6* Mg-2.0

Imaging
===========
Radiology Report CTA HEAD W&W/O C & RECONS Study Date of 
___ 5:51 ___ 
IMPRESSION: 
  
  
1. Redemonstration of right cerebral subdural hematoma with 
maximum thickness 
along the right para falcine region medial to the right 
occipital lobe 
measuring 14 mm. 
2. Focal hypodensity noted at right paramedian pontine region of 
indeterminate 
age. 
3. No acute intraparenchymal hemorrhage, brain herniations or 
midline shift. 
4. A small less than 3 mm funnel shaped outpouching at medial 
aspect of the 
supraclinoid right ICA (series 4, image 251) likely representing 
infundibulum 
versus less likely small aneurysm.  Otherwise; patent circle of 
___ without 
evidence of stenosis,occlusion,or other aneurysm. 
5. Patent bilateral cervical carotid and vertebral arteries 
without evidence 
of stenosis, occlusion, or dissection. 

Radiology Report STROKE PROTOCOL (BRAIN W/O) Study Date of 
___ 9:32 ___ 

IMPRESSION: 
  
  
1. Right paramedian pontine focus of acute/subacute infarction 
measuring 1.5 
cm. 
2. Redemonstration of subdural hematoma along right cerebral 
convexity, 
tentorium cerebelli and right posterior parafalcine regions with 
maximum 
thickness along medial right occipital region measuring about 9 
mm. 
3. There is no underlying midline shift, brain herniation is or 
evolving acute 
hydrocephalus. 

 
Brief Hospital Course:
Mr. ___ is an ___ man whose
only significant medical history is glaucoma, who follows with
primary care once yearly, who presented to an outside hospital
with dizziness, falls, and was transferred to ___ for further
work-up of subdural hematoma. Imaging notable for SDH and
pontine diffusion abnormalities consistent with likely traumatic 
brain injury resulting in diffuse axonal injury. Cannot rule out 
possibility that he had penetrating vessel disease resulting in 
stroke leading to his fall, but we suspect this is less likely 
given absence of clear vascular territory on MRI. His 
neurological exam on admission was notable for pain-limited 
weakness in his left upper extremity but was otherwise 
non-focal. He became more comfortable within one day of 
hospitalization and requested immediate discharge to home, 
declining rehabilitation services despite risk of fall at home. 
He self-hired a ___ care provider for next few weeks until he 
is able to follow-up with the ___ clinic, orthopedic surgery, 
and his PCP. He was set up with home physical therapy on 
discharge. He had no signs of orthostatic hypotension on 
arrival, but had been repleted with IVF prior to orthostatic 
measurements and as such this value initially leading to his 
fall may have been masked.

Of note, there was concern for radial head fracture on imaging 
on presentation. ACLS recommended repeat elbow xray of his left 
elbow in ___s early mobilization 

Transitional Issues:
- continue Keppra 500mg BID for 7 days from injury (___)
- ___ care until cleared by PCP, home ___
- home ___
- follow-up with ___ clinic at ___
- xray left elbow in two weeks to rule out occult radial head 
fracture 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
2. Simbrinza (brinzolamide-brimonidine) ___ % ophthalmic (eye) 
DAILY 
3. Timolol Maleate 0.5% 1 DROP BOTH EYES BID 

 
Discharge Medications:
1.  LevETIRAcetam 500 mg PO BID 
RX *levetiracetam 500 mg 1 tablet(s) by mouth twice a day Disp 
#*12 Tablet Refills:*0 
2.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
3.  Simbrinza (brinzolamide-brimonidine) ___ % ophthalmic 
(eye) DAILY  
4.  Timolol Maleate 0.5% 1 DROP BOTH EYES BID  
5.Outpatient Physical Therapy
HOME ___ x 5 days a week for 3 weeks

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Traumatic brain injury

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because you suffered a fall, 
which resulted in blood in your brain. There was initial concern 
that you had a stroke that led to the fall. We think that you 
fell because you felt lightheaded and lost your balance and then 
suffered a significant amount of blood in your brain, which 
resulted in a TRAUMATIC BRAIN INJURY. We do not think you had a 
stroke that lead to your fall but rather think the trauma from 
the fall caused injury to the brain, which sometimes can look 
like a stroke on MRI. 

You may have fractured your elbow in your fall and you will need 
to get a repeat XRAY in 2 weeks.

We had physical therpay evaluate you and you were recommended to 
go to rehabilitation as you were not steady on your feet.

Rehabilitation is not within your goals of care and you 
preferred to rehabilitate at home, despite the risk of falling. 
You arranged for 24hr/7 days a week care until you are more 
stable on your feet and until physical therapy can evaluate you.

We recommend that you follow-up with neurosurgery for the 
outpatient traumatic brain injury pathway as well as with 
neurology and orthopedic surgery. We offered to schedule this 
follow-up for you through the hospital but you desired to go 
home and schedule this through your PCP. You voiced 
understanding of the risks of falling without established 
___ rehabilitation and elected to go home at your own 
risk. 

We started you on a medication - 500mg KEPPRA twice a day to 
prevent seizures from the injury you suffered. You will need to 
take this medication until ___ ___ for a total of 7 days.

Please continue all eye drop medications. 

No further change in medications as we do not think you had a 
stroke.

___ NEUROLOGY
 
Followup Instructions:
___